### PR TITLE
[Merged by Bors] - feat(FieldTheory/SeparableClosure): (relative) separable closure

### PR DESCRIPTION
**Pull request by acmepjz**
Main definitions:

- `separableClosure`: the (relative) separable closure of `E / F`, or called maximal separable subextension of `E / F`, is defined to be the intermediate field of `E / F` consisting of all separable elements.
- `Field.sepDegree F E`: the (infinite) separable degree `[E:F]_s` of an algebraic extension `E / F` of fields, defined to be the degree of `separableClosure F E / F`.
- `Field.insepDegree F E`: the (infinite) inseparable degree `[E:F]_i` of an algebraic extension `E / F` of fields, defined to be the degree of `E / separableClosure F E`.
- `Field.finInsepDegree F E`: the (finite) inseparable degree `[E:F]_i` of an algebraic extension `E / F` of fields, defined to be the degree of `E / separableClosure F E` as a natural number. It is zero if such field extension is not finite.

Main results:

- `le_separableClosure_iff`: an intermediate field of `E / F` is contained in the (relative) separable closure of `E / F` if and only if it is separable over `F`.
- `separableClosure.normalClosure_eq_self`: the normal closure of the (relative) separable closure of `E / F` is equal to itself.
- `separableClosure.normal`: the (relative) separable closure of a normal extension is normal.
- `separableClosure.isSepClosure`: the (relative) separable closure of a separably closed extension is a separable closure of the base field.
- `IntermediateField.isSeparable_adjoin_iff_separable`: `F(S) / F` is a separable extension if and only if all elements of `S` are separable elements.
- `separableClosure.eq_top_iff`: the (relative) separable closure of `E / F` is equal to `E` if and only if `E / F` is separable.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 1]
```diff
@@ -0,0 +1,386 @@
...
+  let L := separableClosure F E
+  haveI : IsSeparable F (restrictScalars F L⟮x⟯) := IsSeparable.trans F L L⟮x⟯
+  have : x ∈ restrictScalars F L⟮x⟯ := mem_adjoin_simple_self _ x
+  use ⟨x, le_separableClosure F E (restrictScalars F L⟮x⟯) this⟩
+  apply_fun algebraMap L E using (algebraMap L E).injective
+  rwa [map_zero, ← aeval_algebraMap_apply_eq_algebraMap_eval]
+
+/-- The (absolute) separable closure is defined to be the (relative) separable closure inside the
+algebraic closure. -/
+abbrev SeparableClosure : Type _ := separableClosure F (AlgebraicClosure F)
```
Comment (erdOne) [inline Mathlib/FieldTheory/SeparableClosure.lean:207]: Can you add some API around this or at least add a todo?
For example (restating) that `IsGalois F (SeparableClosure F)`
Or the fact that every separable extension embeds into it.

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 2]
```diff
@@ -0,0 +1,386 @@
...
+theorem separableClosure.normalClosure_eq_self :
+    normalClosure F (separableClosure F E) E = separableClosure F E := by
+  apply le_antisymm (normalClosure_le_iff.2 fun i ↦ ?_) (le_normalClosure _)
+  let i' : (separableClosure F E) ≃ₐ[F] i.fieldRange := AlgEquiv.ofInjectiveField i
+  haveI := i'.isSeparable
+  exact le_separableClosure F E _
+
+/-- If `E` is normal over `F`, then the (relative) separable closure of `E / F` is also normal
+over `F`. -/
+instance separableClosure.normal [Normal F E] : Normal F (separableClosure F E) := by
```
Comment (erdOne) [inline Mathlib/FieldTheory/SeparableClosure.lean:188]: Should we upgrade this to `IsGalois F (separableClosure F E)`?

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 3]
```diff
@@ -0,0 +1,386 @@
...
+instance instNeZeroInsepDegree : NeZero (insepDegree F E) := ⟨rank_pos.ne'⟩
+
+instance instNeZeroFinInsepDegree [FiniteDimensional F E] :
+    NeZero (finInsepDegree F E) := ⟨finrank_pos.ne'⟩
+
+/-- If `E` and `K` are isomorphic as `F`-algebras, then they have the same (infinite)
+separable degree over `F`. -/
+theorem sepDegree_eq_of_equiv (i : E ≃ₐ[F] K) :
+    Cardinal.lift.{w} (sepDegree F E) = Cardinal.lift.{v} (sepDegree F K) :=
+  (separableClosure.algEquivOfAlgEquiv F E K i).toLinearEquiv.lift_rank_eq
```
Comment (erdOne) [inline Mathlib/FieldTheory/SeparableClosure.lean:288]: Can you provide a version of this without `lift`?
Then `sepDegree_bot` won't need those rewrites for example.

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 4]
```diff
@@ -0,0 +1,386 @@
...
+to the (infinite) field extension degree. -/
+theorem sepDegree_mul_insepDegree : sepDegree F E * insepDegree F E = Module.rank F E :=
+  rank_mul_rank F (separableClosure F E) E
+
+/-- If `E` and `K` are isomorphic as `F`-algebras, then they have the same (infinite)
+inseparable degree over `F`. -/
+theorem insepDegree_eq_of_equiv (i : E ≃ₐ[F] K) :
+    Cardinal.lift.{w} (insepDegree F E) = Cardinal.lift.{v} (insepDegree F K) :=
+  Algebra.lift_rank_eq_of_equiv_equiv (separableClosure.algEquivOfAlgEquiv F E K i).toRingEquiv
+    i.toRingEquiv (by rfl)
```
Comment (erdOne) [inline Mathlib/FieldTheory/SeparableClosure.lean:300]: same for this

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 5]
```diff
@@ -0,0 +1,386 @@
...
+def sepDegree := Module.rank F (separableClosure F E)
+
+/-- The (infinite) inseparable degree for a general field extension `E / F` is defined
+to be the degree of `E / (separableClosure F E)`. -/
+def insepDegree := Module.rank (separableClosure F E) E
+
+/-- The (finite) inseparable degree for a general field extension `E / F` is defined
+to be the degree of `E / (separableClosure F E)` as a natural number. It is defined to be zero
+if such field extension is infinite. -/
+def finInsepDegree : ℕ := Cardinal.toNat (insepDegree F E)
```
Comment (erdOne) [inline Mathlib/FieldTheory/SeparableClosure.lean:275]: I wonder if `finrank (separableClosure F E) E` will be easier to work with? (it is definitionally the same)

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 6]
```diff
@@ -0,0 +1,386 @@
...
+to be the degree of `(separableClosure F E) / F`. -/
+def sepDegree := Module.rank F (separableClosure F E)
+
+/-- The (infinite) inseparable degree for a general field extension `E / F` is defined
+to be the degree of `E / (separableClosure F E)`. -/
+def insepDegree := Module.rank (separableClosure F E) E
+
+/-- The (finite) inseparable degree for a general field extension `E / F` is defined
+to be the degree of `E / (separableClosure F E)` as a natural number. It is defined to be zero
+if such field extension is infinite. -/
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableClosure.lean:274]: You write `separableClosure F E` without the parentheses in the [module docstring](https://github.com/leanprover-community/mathlib4/pull/9338/files#diff-fbae6aa6a45b5781c17dc0397d1edfbcf1ed608887c0c6aa87cf2f0a57d44145R24-R34) but use parentheses here. (I think they're not needed.)

File: Mathlib/FieldTheory/SeparableClosure.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/SeparableClosure.lean:275]: It's easier to `rw [finrank]` than `rw [← finrank]` so it's probably a good idea. If we keep the current def:
```suggestion
def finInsepDegree : ℕ := (insepDegree F E).toNat
```

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 7]
```diff
@@ -0,0 +1,386 @@
...
+inseparable degree over `F`. -/
+theorem finInsepDegree_eq_of_equiv (i : E ≃ₐ[F] K) :
+    finInsepDegree F E = finInsepDegree F K := by
+  simpa only [Cardinal.toNat_lift] using congr_arg Cardinal.toNat
+    (insepDegree_eq_of_equiv F E K i)
+
+@[simp]
+theorem sepDegree_self : sepDegree F F = 1 := by
+  have : separableClosure F F = ⊥ := toSubalgebra_injective <| Subsingleton.elim _ _
+  rw [sepDegree, this, IntermediateField.rank_bot]
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableClosure.lean:312]: Maybe we should transport the Subalgebra Subsingleton instance to IntermediateField, so you can just `rw [Subsingleton.elim (separableClosure F F) ⊥`.

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 8]
```diff
@@ -0,0 +1,386 @@
...
+
+/-- If `i` is an `F`-algebra isomorphism of `E` and `K`, then `separableClosure F K` is equal to
+the image of `separableClosure F E` under the map `i`. -/
+theorem separableClosure.eq_map_of_algEquiv (i : E ≃ₐ[F] K) :
+    separableClosure F K = (separableClosure F E).map i.toAlgHom := by
+  refine le_antisymm (fun x hx ↦ ?_) (map_le_of_algHom F E K i.toAlgHom)
+  change x ∈ (_ : Set K)
+  rw [coe_map, Set.mem_image]
+  exact ⟨i.symm.toAlgHom x,
+    (map_mem_separableClosure_iff F K E i.symm.toAlgHom).2 hx, i.apply_symm_apply x⟩
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableClosure.lean:134]: defeq manipulation before `exact` is almost always unnecessary. `.toAlgHom` are unnecessary too.
```suggestion
    separableClosure F K = (separableClosure F E).map i := by
  refine le_antisymm (fun x hx ↦ ?_) (map_le_of_algHom F E K i)
  exact ⟨i.symm x, (map_mem_separableClosure_iff F K E i.symm).2 hx, i.right_inv x⟩
```
(`i.symm x` can be omitted too)

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 9]
```diff
@@ -0,0 +1,386 @@
...
+subextensions (when `K / E` is algebraic, this means that it is purely inseparable),
+then `separableClosure F K` is equal to `separableClosure F E`. -/
+theorem separableClosure.eq_map_of_separableClosure_eq_bot [Algebra E K] [IsScalarTower F E K]
+    (h : separableClosure E K = ⊥) :
+    separableClosure F K = (separableClosure F E).map (IsScalarTower.toAlgHom F E K) := by
+  refine le_antisymm (fun x hx ↦ ?_) (map_le_of_algHom F E K _)
+  rw [mem_separableClosure_iff] at hx
+  obtain ⟨y, hy⟩ := mem_bot.1 <| h ▸ (mem_separableClosure_iff E K).2 (hx.map_minpoly E)
+  rw [← hy, minpoly.algebraMap_eq (algebraMap E K).injective, ← mem_separableClosure_iff] at hx
+  exact ⟨y, hx, hy⟩
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableClosure.lean:124]: uses `map_mem_separableClosure_iff`
```suggestion
  obtain ⟨y, rfl⟩ := mem_bot.1 <| h ▸ (mem_separableClosure_iff E K).2
    (mem_separableClosure_iff _ _ |>.mp hx |>.map_minpoly E)
  exact ⟨y, (map_mem_separableClosure_iff _ _ _ <| IsScalarTower.toAlgHom F E K).mp hx, rfl⟩
```

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 10]
```diff
@@ -0,0 +1,386 @@
...
+if it is separable over `F`. -/
+theorem le_separableClosure (L : IntermediateField F E) [IsSeparable F L] :
+    L ≤ separableClosure F E := le_separableClosure' F E (IsSeparable.separable F)
+
+/-- An intermediate field of `E / F` is contained in the (relative) separable closure of `E / F`
+if and only if it is separable over `F`. -/
+theorem le_separableClosure_iff (L : IntermediateField F E) :
+    L ≤ separableClosure F E ↔ IsSeparable F L :=
+  ⟨fun h ↦ (isSeparable_def _ _).2 fun x ↦ by simpa only [minpoly_eq] using h x.2,
+    fun _ ↦ le_separableClosure _ _ _⟩
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableClosure.lean:166]:
```suggestion
  ⟨fun h ↦ ⟨fun x ↦ by simpa only [minpoly_eq] using h x.2⟩, fun _ ↦ le_separableClosure _ _ _⟩
```

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 11]
```diff
@@ -0,0 +1,386 @@
...
+
+/-- The (relative) separable closure of the (relative) separable closure of `E / F` is equal to
+itself. -/
+theorem separableClosure.separableClosure_eq_bot :
+    separableClosure (separableClosure F E) E = ⊥ := bot_unique fun x hx ↦ by
+  rw [mem_separableClosure_iff, ← isSeparable_adjoin_simple_iff_separable] at hx
+  set L := separableClosure F E
+  haveI : IsSeparable F (L⟮x⟯.restrictScalars F) := IsSeparable.trans F L L⟮x⟯
+  exact mem_bot.2 ⟨⟨x, (mem_separableClosure_iff F E).2 (separable_of_mem_isSeparable F E <|
+    show x ∈ L⟮x⟯.restrictScalars F from mem_adjoin_simple_self L x)⟩, rfl⟩
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableClosure.lean:176]: I think we should extract from the proof of `IsSeparable.trans` the lemma that `(minpoly L x).Separable` and `IsSeparable F L` implies `(minpoly F x).Separable`. That would also make the proof of `eq_restrictScalars_of_isSeparable` just one line.

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 12]
```diff
@@ -0,0 +1,379 @@
...
+
+/-- The normal closure of the (relative) separable closure of `E / F` is equal to itself. -/
+theorem separableClosure.normalClosure_eq_self :
+    normalClosure F (separableClosure F E) E = separableClosure F E := by
+  apply le_antisymm (normalClosure_le_iff.2 fun i ↦ ?_) (le_normalClosure _)
+  let i' : (separableClosure F E) ≃ₐ[F] i.fieldRange := AlgEquiv.ofInjectiveField i
```
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/FieldTheory/SeparableClosure.lean:182]: This can actually be inlined if you want

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 13]
```diff
@@ -0,0 +1,386 @@
...
+    IsSeparable F (adjoin F S) ↔ ∀ x ∈ S, (minpoly F x).Separable := by
+  simp only [← le_separableClosure_iff, ← mem_separableClosure_iff]
+  exact ⟨fun h x hx ↦ (adjoin.mono F _ _ <| Set.singleton_subset_iff.2 hx).trans h <|
+    mem_adjoin_simple_self F x, adjoin_le_iff.2⟩
+
+/-- The (relative) separable closure of `E / F` is equal to `E` if and only if `E / F` is
+separable. -/
+theorem separableClosure.eq_top_iff : separableClosure F E = ⊤ ↔ IsSeparable F E :=
+  ⟨fun h ↦ (isSeparable_def _ _).2 fun _ ↦ (mem_separableClosure_iff F E).1 (h ▸ mem_top),
+    fun h ↦ top_unique fun x _ ↦ (mem_separableClosure_iff F E).2 (((isSeparable_def _ _).1 h) x)⟩
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableClosure.lean:221]:
```suggestion
  ⟨fun h ↦ ⟨fun _ ↦ (mem_separableClosure_iff F E).1 (h ▸ mem_top)⟩,
    fun _ ↦ top_unique fun x _ ↦ (mem_separableClosure_iff F E).2 (IsSeparable.separable _ x)⟩
```

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 14]
```diff
@@ -0,0 +1,386 @@
...
+algebraic closure. -/
+abbrev SeparableClosure : Type _ := separableClosure F (AlgebraicClosure F)
+
+/-- `F(S) / F` is a separable extension if and only if all elements of `S` are
+separable elements. -/
+theorem IntermediateField.isSeparable_adjoin_iff_separable {S : Set E} :
+    IsSeparable F (adjoin F S) ↔ ∀ x ∈ S, (minpoly F x).Separable := by
+  simp only [← le_separableClosure_iff, ← mem_separableClosure_iff]
+  exact ⟨fun h x hx ↦ (adjoin.mono F _ _ <| Set.singleton_subset_iff.2 hx).trans h <|
+    mem_adjoin_simple_self F x, adjoin_le_iff.2⟩
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableClosure.lean:215]:
```suggestion
    IsSeparable F (adjoin F S) ↔ ∀ x ∈ S, (minpoly F x).Separable :=
  (le_separableClosure_iff F E _).symm.trans adjoin_le_iff
```

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 15]
```diff
@@ -0,0 +1,386 @@
...
+theorem separableClosure.eq_top_iff : separableClosure F E = ⊤ ↔ IsSeparable F E :=
+  ⟨fun h ↦ (isSeparable_def _ _).2 fun _ ↦ (mem_separableClosure_iff F E).1 (h ▸ mem_top),
+    fun h ↦ top_unique fun x _ ↦ (mem_separableClosure_iff F E).2 (((isSeparable_def _ _).1 h) x)⟩
+
+/-- If `K / E / F` is a field extension tower, then `separableClosure F K` is contained in
+`separableClosure E K`. -/
+theorem separableClosure.le_restrictScalars [Algebra E K] [IsScalarTower F E K] :
+    separableClosure F K ≤ (separableClosure E K).restrictScalars F := fun x hx ↦ by
+  simp only [mem_restrictScalars, mem_separableClosure_iff] at hx ⊢
+  exact hx.map_minpoly E
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableClosure.lean:228]:
```suggestion
    separableClosure F K ≤ (separableClosure E K).restrictScalars F :=
  fun _ hx ↦ hx.map_minpoly E
```

File: Mathlib/FieldTheory/SeparableClosure.lean (hunk 4 above)
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableClosure.lean:300]:
```suggestion
  Algebra.lift_rank_eq_of_equiv_equiv (separableClosure.algEquivOfAlgEquiv F E K i) i rfl
```

File: Mathlib/FieldTheory/SeparableClosure.lean (hunk 5 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableClosure.lean:275]: > I wonder if `finrank (separableClosure F E) E` will be easier to work with? (it is definitionally the same)

This change breaks some of the following proofs using `simp only`.

>  Suggested change
```lean
- def finInsepDegree : ℕ := Cardinal.toNat (insepDegree F E)
+ def finInsepDegree : ℕ := (insepDegree F E).toNat
```

Unfortunately this doesn't work:
```
invalid field notation, function 'Cardinal.toNat' does not have argument with type (Cardinal ...) that can be used, it must be explicit or implicit with a unique name
```

Comment (alreadydone) [reply Mathlib/FieldTheory/SeparableClosure.lean:271]: I see, .toNat is a bundled ZeroHom. (Is it not a MonoidHom?) The CoeFun symbol no longer show up in the docs, which confused me.

File: Mathlib/FieldTheory/SeparableClosure.lean (hunk 3 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableClosure.lean:284]: Sure. But `sepDegree_bot` still needs the rewrites since `F` and `⊥` are not in the same universe 😂

File: Mathlib/FieldTheory/SeparableClosure.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableClosure.lean:194]: > For example (restating) that `IsGalois F (SeparableClosure F)`

This can by synth automatically from the coming `separableClosure.isGalois`.

> Or the fact that every separable extension embeds into it.

This is [IsSepClosed.lift](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/IsSepClosed.html#IsSepClosed.lift).

Comment (erdOne) [reply Mathlib/FieldTheory/SeparableClosure.lean]: I see. Is the instance `IsSepClosure (SeparableClosure F)` coming in this PR?

File: Mathlib/FieldTheory/SeparableClosure.lean (hunk 5 above)
Comment (erdOne) [reply Mathlib/FieldTheory/SeparableClosure.lean:258]: I'd suppose `finrank` has some more lemmas around it? You can add `finrank` to the `simp only`s to fix them if that is the only concern. Otherwise adding the equality as a rfl lemma might be useful as well.

File: Mathlib/FieldTheory/SeparableClosure.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/FieldTheory/SeparableClosure.lean]: I found it. Thanks for the updated docstring.

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 16]
```diff
@@ -0,0 +1,374 @@
...
+if and only if it is separable over `F`. -/
+theorem le_separableClosure_iff (L : IntermediateField F E) :
+    L ≤ separableClosure F E ↔ IsSeparable F L :=
+  ⟨fun h ↦ ⟨fun x ↦ by simpa only [minpoly_eq] using h x.2⟩, fun _ ↦ le_separableClosure _ _ _⟩
+
+/-- The (relative) separable closure of the (relative) separable closure of `E / F` is equal to
+itself. -/
+theorem separableClosure.separableClosure_eq_bot :
+    separableClosure (separableClosure F E) E = ⊥ := bot_unique fun x hx ↦
+  mem_bot.2 ⟨⟨x, (mem_separableClosure_iff _ E).1 hx |>.comap_minpoly_of_isSeparable F⟩, rfl⟩
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableClosure.lean:165]: I'd like to add
```
theorem IsSepClosed.separableClosure_eq_bot [IsSepClosed F] : separableClosure F E = ⊥ :=
  bot_unique fun x hx ↦ mem_bot.2 <|
    have ⟨y, hy⟩ := IsSepClosed.algebraMap_surjective (⟨x, hx⟩ : separableClosure F E)
    ⟨y, Subtype.ext_iff.mp hy⟩
```
here; it would be nice to add the IsAlgClosed version as well using `integralClosure` or my `IntermediateField.algClosure` that hasn't been PR'd ... (notice that [IsIntegrallyClosed.integralClosure_eq_bot](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/IntegrallyClosed.html#IsIntegrallyClosed.integralClosure_eq_bot) says something different, because IsIntegrallyClosed is restricted to the FractionRing.)

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 17]
```diff
@@ -0,0 +1,374 @@
...
+  one_mem' := map_one (algebraMap F E) ▸ separable_algebraMap E 1
+  add_mem' := separable_add
+  zero_mem' := map_zero (algebraMap F E) ▸ separable_algebraMap E 0
+  algebraMap_mem' := separable_algebraMap E
+  inv_mem' := separable_inv
+
+/-- An element is contained in the (relative) separable closure of `E / F` if and only if
+it is a separable element. -/
+theorem mem_separableClosure_iff {x : E} :
+    x ∈ separableClosure F E ↔ (minpoly F x).Separable := Iff.rfl
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableClosure.lean:91]: I think F and E need not be explicit. You might try to optimize other ones a bit too.

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 18]
```diff
@@ -0,0 +1,374 @@
...
+instance separableClosure.isSepClosure [IsSepClosed E] : IsSepClosure F (separableClosure F E) := by
+  refine ⟨IsSepClosed.of_exists_root _ fun p _ hirr hsep ↦ ?_, isSeparable F E⟩
+  obtain ⟨x, hx⟩ := IsSepClosed.exists_aeval_eq_zero E p (degree_pos_of_irreducible hirr).ne' hsep
+  haveI := (isSeparable_adjoin_simple_iff_separable _ E).2 <| hsep.of_dvd <| minpoly.dvd _ x hx
+  let L := separableClosure F E
+  haveI : IsSeparable F (restrictScalars F L⟮x⟯) := IsSeparable.trans F L L⟮x⟯
+  have : x ∈ restrictScalars F L⟮x⟯ := mem_adjoin_simple_self _ x
+  use ⟨x, le_separableClosure F E (restrictScalars F L⟮x⟯) this⟩
+  apply_fun algebraMap L E using (algebraMap L E).injective
+  rwa [map_zero, ← aeval_algebraMap_apply_eq_algebraMap_eval]
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableClosure.lean:193]: If you add
```suggestion
lemma IsSepClosed.separableClosure_eq_bot_iff [IsSepClosed E] :
    separableClosure F E = ⊥ ↔ IsSepClosed F := by
  refine ⟨fun h ↦ IsSepClosed.of_exists_root _ fun p _ hirr hsep ↦ ?_,
    fun _ ↦ IsSepClosed.separableClosure_eq_bot F E⟩
  obtain ⟨x, hx⟩ := IsSepClosed.exists_aeval_eq_zero E p (degree_pos_of_irreducible hirr).ne' hsep
  obtain ⟨x, rfl⟩ := h ▸ (mem_separableClosure_iff F E).mpr (hsep.of_dvd <| minpoly.dvd _ x hx)
  exact ⟨x, by simpa [Algebra.ofId_apply] using hx⟩
```
then this proof becomes:
```
/-- If `E` is separably closed, then the (relative) separable closure of `E / F` is a
separable closure of `F`. -/
instance separableClosure.isSepClosure [IsSepClosed E] : IsSepClosure F (separableClosure F E) :=
  ⟨(IsSepClosed.separableClosure_eq_bot_iff _ E).mp (separableClosure.separableClosure_eq_bot F E),
    isSeparable F E⟩
```

**Review by alreadydone — COMMENTED** [review]
I'd like to see two more lemmas added and this PR should be ready to go.

File: Mathlib/FieldTheory/SeparableClosure.lean (hunk 16 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableClosure.lean:165]: More generally, if `IsSepClosed F`, `L : IntermediateField F E` and `IsSeparable F L`, then `L = ⊥`. Then `separableClosure F E = ⊥` should comes automatically.

File: Mathlib/FieldTheory/SeparableClosure.lean (hunk 5 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableClosure.lean:258]: > I'd suppose `finrank` has some more lemmas around it? You can add `finrank` to the `simp only`s to fix them if that is the only concern. Otherwise adding the equality as a rfl lemma might be useful as well.

Let me try later.

File: Mathlib/FieldTheory/SeparableClosure.lean (hunk 16 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableClosure.lean:165]: I added `IntermediateField.eq_bot_of_isSepClosed_of_isSeparable` in `IsSepClosed.lean`. Would you like to added a similar result to `IsAlgClosed.lean`?

Comment (alreadydone) [reply Mathlib/FieldTheory/SeparableClosure.lean:165]: > I plan to add IntermediateField.eq_bot_of_isSepClosed_of_isSeparable in IsSepClosed.lean.

Sounds good, thanks for the generalization!

> Would you like to add a similar result to IsAlgClosed.lean?

That would be nice, yes. I just think you might face some difficulties without an `IntermediateField` version of `integralClosure`.

> Oh, but separableClosure.separableClosure_eq_bot is not a corollary of it, since separableClosure F E in general is not IsSepClosed 😅

Yeah, they don't imply each other but the statements are similar, so it's a good idea to place them together. My version is used to prove `IsSepClosed.separableClosure_eq_bot_iff` below.

Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableClosure.lean:165]: Now this code works:
```lean
example [IsSepClosed F] : separableClosure F E = ⊥ := by
  exact eq_bot_of_isSepClosed_of_isSeparable _
```
but `exact?` can't find `eq_bot_of_isSepClosed_of_isSeparable `, I don't know why.

**Review by alreadydone — APPROVED** [review]
Thanks 🎉 
maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
